US07863271B2
Following general procedure GP-C1, a mixture of 2-(dimethylamino)benzoxazole-4-carboxylic acid and (S)-(−)-3-aminoquinuclidine dihydrochloride were coupled to provide (S)—N-(quinuclidine-8-yl)-2-(dimethylamino)benzoxazole-4-carboxamide, which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | 2-(dimethylamino)benzoxazole-4-carboxylic acid | CN(C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C10H10N2O3
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | Cl.Cl.N[C@@H]1CN2CCC1CC2
product | (S)—N-(quinuclidine-8-yl)-2-(dimethylamino)benzoxazole-4-carboxamide | N12CCC(CC1)[C@@H](C2)NC(=O)C=2C=CC=C1C2N=C(O1)N(C)C | C17H22N4O2
